US08492582B2
Water (0.60 mL), 2-thiopheneboronic acid (34 mg), sodium carbonate (70 mg), and tetrakis(triphenylphosphine)palladium(0) (13 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) suspension of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and a 10% aqueous solution of citric acid were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 95-85% hexane/ethyl acetate] to obtain tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-2-yl)benzoate.

reactant | 2-thiopheneboronic acid | 34 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 70 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.10 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrakis(triphenylphosphine)palladium(0) | 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.60 mL | O | H2O
product | tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-2-yl)benzoate | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C=1SC=CC1 | C27H24N2O3S
